US08420823B2
N-(3-cyclopropyl-1H-pyrazol-5-yl)-3-(piperidin-1-ylsulfonyl)benzamide
The entitled compound was produced according to the method of Example 92 but using 3-(piperidin-1-ylsulfonyl)benzoic acid and 5-cyclopropyl-1H-pyrazole-3-amine as the starting materials.

reactant | 3-(piperidin-1-ylsulfonyl)benzoic acid | N1(CCCCC1)S(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C12H15NO4S
reactant | 5-cyclopropyl-1H-pyrazole-3-amine | C1(CC1)C1=CC(=NN1)N | C6H9N3
product | N-(3-cyclopropyl-1H-pyrazol-5-yl)-3-(piperidin-1-ylsulfonyl)benzamide | C1(CC1)C1=NNC(=C1)NC(C1=CC(=CC=C1)S(=O)(=O)N1CCCCC1)=O | C18H22N4O3S
